US06506772B1
Cyclopentanecarboxylic Acid (2,6-Diamino-pyridin-4-ylmethyl)-amide
A solution of 205.6 mg (1.49 mmol) 4-aminomethyl-pyridine-2,6-diamine in 5 ml pyridine was treated with 198 mg (1.49 mmol) cyclopentane carboxylic acid chloride and a catalytic amount 4-dimethylaminopyridine and stirred for 2.5 h at room temperature. The mixture was evaporated to dryness and the residue was purified by column chromatography on silica eluting with dichloromethane/methanol 9/1 to yield 93 mg (26%) of the title compound.

reactant | 4-aminomethyl-pyridine-2,6-diamine | 1.49 mmol, 205.6 mg | NCC1=CC(=NC(=C1)N)N | C6H10N4
reactant | cyclopentane carboxylic acid chloride | 1.49 mmol, 198 mg | C1(CCCC1)C(=O)Cl | C6H9ClO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | Cyclopentanecarboxylic Acid (2,6-Diamino-pyridin-4-ylmethyl)-amide | 93 mg, 26% | NC1=NC(=CC(=C1)CNC(=O)C1CCCC1)N | C12H18N4O
